US05872137
To a mixture of 20.4 g of 1,3-dibromopropane, 7.1 g of potassium carbonate and 100 ml of N,N-dimethylformamide was added dropwise a solution of 9 g of 4-trifluoromethoxyphenol dissolved in 30 ml of N,N-dimethylformamide, while stirring at room temperature. After stirring at room temperature for 24 hours, the reaction mixture was filtered, and the solvent was removed from the filtrate by distillation under reduced pressure. The residue was subjected to silica gel chromatography, which afforded 9.1 g of 1-(3-bromopropyloxy)4-trifluoromethoxybenzene (60% yield).

reactant | 1,3-dibromopropane | 20.4 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 7.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-trifluoromethoxyphenol | 9 g | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-(3-bromopropyloxy)4-trifluoromethoxybenzene | 9.1 g, 60% yield | BrCCCOC1=CC=C(C=C1)OC(F)(F)F | C10H10BrF3O2
